US04545382
Mini electrode for in vivo glucose sensing in skin
The end 15 of the electrode is placed into a solution of water soluble DCC (25 mg/ml) in acetate buffer, pH 4.5 for 1 hour. It is then rinsed, in buffer only, for 5 minutes and thereafter placed in a solution of glucose oxidase (10 mg/ml) in acetate buffer, ph 5.5, for 11/2 hours before again rinsing in buffer. The tip of the electrode 15, with the layers of dimethyl ferrocene and immobilised enzyme is then dipped into a solution of cellulose acetate dissolved in acetone and formamide and put into ice water for several minutes, to give a protected and stable electrode.

reactant | water | O | H2O
reactant | acetate | C(C)(=O)[O-]
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
